US04471116
A solution of sodium hydroxide (39 g) in 200 ml water added to a rapidly stirred solution of (2R)-3-mesyloxy-1,2-propanediol acetonide (172.1 g) and 4-benzyloxyphenol (200 g) in 1.5 L dimethylsulfoxide, and the reaction was heated on a steam bath for 3 hours. The cooled solution was diluted with 1 L 1N sodium hydroxide solution and the resulting solids were washed with dilute sodium hydroxide solution with water. The air-dried solids were taken up in benzene (2 L) and the solution was dried over sodium sulfate, decolorized with charcoal and evaporated in vacuo. The product was dissolved in hot methanol (~1.5 L), cooled to ~40° and filtered free from some non-polar impurity. A small portion of the methanol solution was diluted with water to give (2S)-3-(4-benzyloxyphenoxy)-1,2-propanediol acetonide. Crystallization from hexane furnished the pure specimen, mp 69.5°-71°; [α]D25, +6.26° (c, 1.0, methanol).

reactant | (2R)-3-mesyloxy-1,2-propanediol acetonide | 172.1 g | [CH2-]C(=O)C.S(=O)(=O)(C)OC[C@@H](CO)O
reactant | 4-benzyloxyphenol | 200 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
solvent | water | 200 ml | O | H2O
solvent | dimethylsulfoxide | 1.5 L | CS(=O)C | C2H6OS
solvent | sodium hydroxide | 1N, 1 L | [OH-].[Na+]
solvent | sodium hydroxide | 39 g | [OH-].[Na+]
product | (2S)-3-(4-benzyloxyphenoxy)-1,2-propanediol acetonide | [CH2-]C(=O)C.C(C1=CC=CC=C1)OC1=CC=C(OC[C@H](CO)O)C=C1 | InChI=1S/C16H18O4.C3H5O/c17-10-14(18)12-20-16-8-6-15(7-9-16)19-11-13-4-2-1-3-5-13;1-3(2)4/h1-9,14,17-18H,10-12H2;1H2,2H3/q;-1/t14-;/m0./s1
